US04277394
Z-Gly-Phe-NHNH-COCH3 (5 g) is hydrogenated over a Pd-black as a catalyst in MeOH (100 ml). The catalyst is filtered and the filtrate is evaporated to give 3.5 g of H-Gly-Phe-NHNH-COCH3 as crystals, H-Gly-Phe-NHNH-COCH3 (0.89 g) and Z-(D)-Nva-ONB, which is prepared from Z-(D)-Nva-OH (0.80 g) and HONB (0.63 g) by the DCC method, are dissolved in DMF (10 ml). The mixture is stirred for 10 hr. at room temperature and evaporated. The residue is treated with diethylether to give a powder which is crystallized from acetonitrile; yield 1.3 g. m.p. 235°-237° C., [α]D23 +3.4° (c=0.45, DMF), Rf1 =0.44.

reactant | Z-Gly-Phe-NHNH-COCH3 | 5 g | N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)C)C(=O)OCC1=CC=CC=C1 | C21H24N4O5
catalyst | Pd | [Pd] | Pd
solvent | MeOH | 100 ml | CO | CH4O
product | H-Gly-Phe-NHNH-COCH3 | 0.89 g | NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)C | C13H18N4O3
